US07514448B2
2.5M Butyl lithium (4.4 mL, 10.8 mmol) was added dropwise to a stirred solution of 5-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (2.55 g, 7.23 mmol) in THF (65 mL) over 10 min at −78° C. under nitrogen in three necked flask. The resulting solution was stirred at −78° C. for 1 h and solid N-fluorobenzenesulfonimide (2.84 g, 9.03 mmol) was added in one portion and stirred at −78° C. for 2 h. The solvent was evaporated and the crude material was dissolved in water (50 mL) and extracted with EtOAc (3×25 mL). The organic extract was dried and concentrated under reduced pressure to give a residue which was suspended in hexane (5 mL) and filtered. The filtrate was chromatographed (Biotage HPFC) on silica gel eluting with hexane to give 5-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (1.06 g, 50.2%) as a viscous oil.; Mass Spec.; MS 293 (M+1); 1H NMR(CDCl3,500 MHz) 8.11(d,1H), 7.51(dd,1H), 7.34(d,1H), 6.50(d,1H), 1.84(q,3H), 1.10(d,18H).

reactant | Butyl lithium | 10.8 mmol, 2.5M, 4.4 mL | C(CCC)[Li]
reactant | 5-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 7.23 mmol, 2.55 g | BrC=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25BrN2Si
reactant | N-fluorobenzenesulfonimide | 9.03 mmol, 2.84 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 5-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 1.06 g, 50.2% | FC=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25FN2Si
